US08541418B2
A suspension of (R)-8-cyclopentyl-7-ethyl-5-methyl-2-(2-oxo-2-phenylethyl)-7,8-dihydropteridin-6(5H)-one (Intermediate B-1, 700 mg) in 10 mL of DMF-DMA was heated at 110° C. for 3 hours. The resulting mixture was concentrated to give the desired (R,Z)-8-cyclopentyl-2-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)-7-ethyl-5-methyl-7,8-dihydropteridin-6(5H)-one (compound I-132).

reactant | (R)-8-cyclopentyl-7-ethyl-5-methyl-2-(2-oxo-2-phenylethyl)-7,8-dihydropteridin-6(5H)-one | 700 mg | C1(CCCC1)N1[C@@H](C(N(C=2C=NC(=NC12)CC(C1=CC=CC=C1)=O)C)=O)CC | C22H26N4O2
solvent | DMF-DMA | 10 mL | CN(C)C(OC)OC | C5H13NO2
product | (R,Z)-8-cyclopentyl-2-(1-(dimethylamino)-3-oxo-3-phenylprop-1-en-2-yl)-7-ethyl-5-methyl-7,8-dihydropteridin-6(5H)-one | C1(CCCC1)N1[C@@H](C(N(C=2C=NC(=NC12)/C(=C/N(C)C)/C(C1=CC=CC=C1)=O)C)=O)CC | C25H31N5O2
